US07799947B2
Step (a) 3-Chloro-5-methoxybenzaldehyde
To a mixture of dichloroanisole (60 mmol, 10.62 g), Mg (66 mmol, 1.60 g) and THF (30 ml) was added 1,2-dibromoethane (6 mmol, 1.13 g). The mixture was stirred until bubbles of gas started to evolve (2-3 min), and then heated to reflux for 2.5 h. The resulting dark brown mixture was cooled to −10° C. on an acetone-ice bath and DMF (90 mmol, 7 ml) was added slowly. After 20 min the ice-bath was removed, the mixture was stirred for 3 h and subsequently quenched with NHrCl (10% w/w in water, 100 ml). The product mixture was extracted with DCM (4×50 ml), the organic phase washed with water, then brine and dried (MgSO4). Filtration and evaporation under reduced pressure gave a red liquid residue, which was purified by means of flash chromatography (silica, pentane/ether gradient. 5-30%) to provide the title compound (4.60 g, 45%) as a clear liquid. 1H NMR (DMSO, 300 MHz) δ 3.84 (s, 3H), 7.16 (s, 1H), 7.25 (s, 1H), 7.43 (s, 1H) and 9.92 (s, 1H).

reactant | dichloroanisole | 60 mmol, 10.62 g | ClC=1C(=C(C=CC1)OC)Cl | C7H6Cl2O
reactant | 1,2-dibromoethane | 6 mmol, 1.13 g | BrCCBr | C2H4Br2
reactant | DMF | 90 mmol, 7 ml | CN(C)C=O | C3H7NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-Chloro-5-methoxybenzaldehyde | 4.60 g, 45% | ClC=1C=C(C=O)C=C(C1)OC | C8H7ClO2
